US06984647B2
Isoquinoline is reacted with N-(hydroxymethyl)trifluoroacetamide in acid followed by reduction to afford isoquinolin-5-yl-methylamine. Carbamylation using aminotetralin as described above, produces aminotetralin-derived ureas in which L═CH2 (methylene) (Scheme 7).

reactant | Isoquinoline | C1=NC=CC2=CC=CC=C12 | C9H7N
reactant | N-(hydroxymethyl)trifluoroacetamide | OCNC(C(F)(F)F)=O | C3H4F3NO2
product | isoquinolin-5-yl-methylamine | C1=NC=CC2=C(C=CC=C12)NC | C10H10N2
